US07244730B2
(Step 7) 2-Bromo-1-[3-(tert-butyl)-5-(4-hydroxypiperidino)-4-methoxyphenyl]-1-ethanone
A solution of the 1-[5-bromo-3-(tert-butyl)-2-methoxyphenyl]-4-piperidinol (1.3 g, 3.8 mmol), tributyl(1-ethoxyvinyl)tin (1.5 g, 4.2 mmol), tetrakis(triphenylphosphine)palladium (440 mg, 0.38 mmol) and CsF (1.27 g, 8.4 mmol) in 1,4-dioxane (8 ml) was stirred at 100° C. for 2.5 hours under a nitrogen stream. After completion of the reaction, the mixture was cooled to room temperature and diluted with Et2O, and the insoluble portion was filtered through celite. The solvent was distilled off under reduced pressure, the obtained crude product was dissolved in tetrahydrofuran (8 ml)-water (0.8 ml), N-bromosuccinimide (0.75 g, 4.2 mmol) was added while cooling on ice and the mixture was stirred at the same temperature for 15 minutes. This was diluted with a saturated NaHCO3 aqueous solution and ethyl acetate, and then the organic layer was separated and washed with brine. After drying with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (748 mg, 51%) as a light yellow oil.

reactant | 1-[5-bromo-3-(tert-butyl)-2-methoxyphenyl]-4-piperidinol | 3.8 mmol, 1.3 g | BrC=1C=C(C(=C(C1)N1CCC(CC1)O)OC)C(C)(C)C | C16H24BrNO2
reactant | tributyl(1-ethoxyvinyl)tin | 4.2 mmol, 1.5 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | CsF | 8.4 mmol, 1.27 g | [F-].[Cs+]
reactant | N-bromosuccinimide | 4.2 mmol, 0.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 0.8 ml | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.38 mmol, 440 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Bromo-1-[3-(tert-butyl)-5-(4-hydroxypiperidino)-4-methoxyphenyl]-1-ethanone | 748 mg, 51% | BrCC(=O)C1=CC(=C(C(=C1)N1CCC(CC1)O)OC)C(C)(C)C | C18H26BrNO3
